US06596734B1
N-[1-(3,5-dibromo-4-methoxy-benzyl)-1,2,3,4-tetrahydro-isoquinolin-6-yl]-methanesulfonamide.
To solution of 2-(3,5-dibromo-4-methoxy-phenyl)-N-[2-(3-methanesulfonylamino-phenyl)-ethyl]-acetamide in 15 mL of acetonitrile, phosphorus oxychloride is added. The reaction mixture is refluxed for 5 h. The residue after concentration is evaporated 3 times with MeOH, dissolved in 20 mL of MeOH, cooled with an ice bath, and NaBH4 is added by small portions. The reaction mixture is stirred overnight at room temperature, concentrated, dissolved in chloroform, washed with 1N NaOH, dried over Na2SO4, filtered, and concentrated. The residue is dissolved in methanol, and a solution of (COOH)2.2H2O in methanol is added.

reactant | 2-(3,5-dibromo-4-methoxy-phenyl)-N-[2-(3-methanesulfonylamino-phenyl)-ethyl]-acetamide | BrC=1C=C(C=C(C1OC)Br)CC(=O)NCCC1=CC(=CC=C1)NS(=O)(=O)C | C18H20Br2N2O4S
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | N-[1-(3,5-dibromo-4-methoxy-benzyl)-1,2,3,4-tetrahydro-isoquinolin-6-yl]-methanesulfonamide | BrC=1C=C(CC2NCCC3=CC(=CC=C23)NS(=O)(=O)C)C=C(C1OC)Br | C18H20Br2N2O3S
